### PR TITLE
\bar R canonicals for tblattice

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

this code comes from https://github.com/affeldt-aist/trajectories where it was useful to enjoy `\meet_` and `\join_` notations

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/constructive_ereal.v [hunk 1]
```diff
@@ -360,6 +360,16 @@ Canonical ereal_latticeType := LatticeType (extended R) le_total_ereal.
...
+  Order.BLattice.mixin_of (Order.POrder.class (@ereal_porderType R)).
+Proof. by exists -oo; exact leNye. Qed.
+Canonical ereal_blatticeType := BLatticeType (extended R) ereal_blatticeMixin.
+
+Lemma ereal_tblatticeMixin :
+  Order.TBLattice.mixin_of (Order.POrder.class ereal_blatticeType).
+Proof. by exists +oo; exact leey. Qed.
+Canonical ereal_tblatticeType := TBLatticeType (extended R) ereal_tblatticeMixin.
+
 End ERealOrder_realDomainType.
```
Comment (proux01) [inline theories/constructive_ereal.v:373]: I would expect `leNye` and `leey` (and then this) to be trivially generalizable to `ERealOrder_numDomainType`
Otherwise lookgs great

Comment (proux01) [reply theories/constructive_ereal.v:373]: Nevermind, I was wrong, so let's merge.
